US04250094
In the manner given in Example 5, a solution of 1,3-dihydro-7-nitro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione in n-butyl alcohol was heated to reflux with (dimethylamino)acetic acid hydrazide to give 8-nitro-1-[(dimethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4-benzodiazepine.

reactant | 1,3-dihydro-7-nitro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1 | C15H10ClN3O2S
reactant | (dimethylamino)acetic acid hydrazide | CN(C)CC(=O)NN | C4H11N3O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 1,4-benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
